US07576078B2
(S)-4-[3-(tert-Butyldimethylsilanyloxy)-2-methylpropyl]-6-methyl-4H-benzo[1,4]oxazin-3-one (101IS60-1)
A dry 50 mL r-flask was charged with 6-Methyl-4H-benzo[1,4]oxazin-3-one (0.59 g, 3.6 mmol), (R)-(3-bromo-2-methylpropoxy)-tert-butyldimethylsilane (1.0 g, 3.6 mmol), Cs2CO3 (2.9 g, 8.9 mmol) and 10 mL of dry DMF. The mixture was stirred at 50° C. overnight (15 h) and dissolved in ether (50 mL) washed with water (20 mL) and the water phase was extracted with ether (20 mL). The combined organic phases were then washed with brine, dried (Na2SO4), filtered, concentrated under reduced pressure and the resulting oil was purified by flash chromatography (SiO2; Heptane/EtOAc 85:15) to yield the title compound as an oil (1.1 g, 88%). 1H NMR (CDCl3) δ 6.87 (d, J=1.6 Hz, 1H), 6.81 (d, J=8.0 Hz, 1H), 6.72 (dm, J=8.0 Hz, 1H), 4.5 (bars, 2H), 3.93 (dd, J=8.8, 14.0 Hz, 1H), 3.81 (dd, J=5.6, 14.0 Hz, 1H), 3.53 (dd, J=4.8, 10.2 Hz, 1H), 3.41 (dd J=7.2, 10.2 Hz, 1H), 2.25 (s, 3H), 2.18 (m, 1H), 0.87 (s, 9H), 0.83 (d, J=6.8 Hz, 3H), 0.01 (s, 6H); 13C NMR (CDCl3) δ 170.5, 148.9, 137.8, 129.6, 122.2, 121.6, 73.3, 71.6, 49.0, 39.7, 31.5, 26.6, 23.8, 20.1, 0.0.

reactant | 6-Methyl-4H-benzo[1,4]oxazin-3-one | 3.6 mmol, 0.59 g | CC=1C=CC2=C(NC(CO2)=O)C1 | C9H9NO2
reactant | (R)-(3-bromo-2-methylpropoxy)-tert-butyldimethylsilane | 3.6 mmol, 1.0 g | BrC[C@@H](CO[Si](C)(C)C(C)(C)C)C | C10H23BrOSi
reactant | Cs2CO3 | 8.9 mmol, 2.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ether | 50 mL | CCOCC | C4H10O
product | (S)-4-[3-(tert-Butyldimethylsilanyloxy)-2-methylpropyl]-6-methyl-4H-benzo[1,4]oxazin-3-one | 1.1 g, 88% | [Si](C)(C)(C(C)(C)C)OC[C@H](CN1C(COC2=C1C=C(C=C2)C)=O)C | C19H31NO3Si
